Gyrator Current Test

.tran2 tstart=0.1e-6 tstop=5e-6 tstep=.01e-6

vsource:vin 1 0 vac=2 f=1e6
resistor:rin 1 2 r=50
vsource:v1 2 3 vdc=.001
gyrator:gyr1 3 4 0 0 r1=25 r2=50
vsource:v2 5 4 vdc=.001
resistor:rload 5 0 r=50

.out plot element "vsource:v1" 0 it in "i1.out"
.out plot element "vsource:v2" 0 it in "i2.out"

.out plot term 5 vt in "v5.out"
.out plot term 4 vt in "v4.out"
.out plot term 3 vt in "v3.out"
.out plot term 2 vt in "v2.out"
.out plot term 1 vt in "v1.out"
.out plot term 0 vt in "v0.out"

.end
