Isolator Test 2  
*sending a signal backward through the isolator

*.ac start = .01e9 stop = 20e9 n_freqs = 100
.tran2 tstart=0.1e-6 tstop=5e-6 tstep=.01e-6

*4-port circuit
vsource:vin 1 0 vac=2 f=1e6
isolator:iso1 3 2 0 0 r=50
resistor:rin 1 2 r=50
resistor:rload 3 0 r=50

*2-port circuit
*vsource:vin 1 0 vac=2 f=1
*resistor:rin 1 2 r=50
*gyr:gin 2 3 g1=.02 g2=.02
*resistor:rload 3 0 r=50

.out plot term 3 vt in "v3.out"
.out plot term 2 vt in "v2.out"
.out plot term 1 vt in "v1.out"
.out plot term 0 vt in "v0.out"
.end


