***  Purely thermal turn-on transient for the 1-port thermalMMIC element ***

.options deltat=1us nsteps=101 temp=300.

.svtr  tstop = 100us n_freqs = 8 tstep = deltat deriv=0
*.tran2  tstop = 100us tstep = deltat 

* Input power source
isource:pin 1 0 idc=0.4 

thermalheatsinkmmic1:test1 1 10 Ntimesteps=nsteps dt=deltat Tambient=temp time_d=1 
+ nfingers = 1
* We need some resistor in parallel, otherwise the MNAM would
* be singular. 
resistor:rdummy2 1 10 r=1e5

vsource:t1 10 0 vdc=temp

.out plot element "thermalheatsinkmmic1:test1" 0 it in "input.power"
.out plot element "thermalheatsinkmmic1:test1" 0 ut in "output.temperaturec"

.end
