*****tundiode_ivcurve.net
** I-V characteristic of the tunnel diode
.dc sweep="vsource:v1" start=-0.05 stop=0.7 step=0.01

diodetun:d1 1 0 jp=1e-2
** resistor:rin 1 2 r=50

vsource:v1 1 0 vdc=1. 

.out plot element "diodetun:d1" 0 it in "tundiode_ivcurve.dc"

.end
