*****tundiode_osc.net
* Example oscillator with tunnel diode 

vsource:v1 1 0 vdc=3. 
resistor:r1 1 2 r=284
resistor:r2 2 0 r=16

diodetun:d1 2 3 jp=1e-3 vpk=65e-3 jv=1.1e-4 vv=350e-3 a2=10 js=2e-12
+ ct0=0.1p cd0=0.1p r0=2 mt=-0.01 mx=0.01 mth=0.01

resistor:r3 3 0 r=10k
inductor:l1 3 0 l=5e-9
capacitor:c1 3 0 c=5e-9

.tran2 tstep=0.5n tstop=20u

.out plot term 3 vt in "osc_1.tran2"

.end


