Simple VCVS test

.ac start=.01e9 stop=20e9 n_freqs=5

vsource:v1 2 0 vac=1V 

resistor:rs 2 1  r=50
vcvs:vc1 3 4 1 0 k=10

resistor:rl 3 4 r=50

.ref 0
.ref 4

.out plot term 3 vf mag in "result.dat"

.end
