*** Wavelet test netlist ***

.OPTIONS FREQ = 10e9 rtol=1e-9 nonlin=4 maxit=200

.wavtran L=8 J=-1 tf=.1e-9 max_nw=15 savemnam=0 nsteps=2

*.svhb n_freqs = 15 fundamental = FREQ  steps=4 deriv=0

*.svtr tstop = 1e-9 n_freqs = 32768 tstep = .001e-9 opt=0 adjust=0 imp_tol=2
*+ rcomp = 25

vsource:v1 11 0 f= freq vac=5. phase = -90 
resistor:rin 11 1 r=50
inductor:load1 1 0 l=50n
*capacitor:rs 1 0 c=2pF int_res=1e4
*resistor:rtest 1 0 r=100.

diode:d2 1 0 js=5.1e-14 alfa=38.696 jb=1.0e-5 vb=-1.0e50 e=10 
+ gama=0.810205 fi=1.27517 afac=38.696 area=271 r0=10. ct0=1.32767e-15

* additional branch
diode:d1 5 1 js=5.1e-14 alfa=38.696 jb=1.0e-5 vb=-1.0e50 e=10 
+ ct0=1.32767e-15 gama=0.810205 fi=1.27517 afac=38.696 area=271 r0=10.
resistor:rb 5 0 r=10

.out plot element "diode:d2" 0 ut in "vnl2.tranw"
.out plot element "diode:d2" 0 it in "inl2.tranw"
.out plot element "diode:d2" 0 xt in "xw2.tran"

.out plot element "diode:d1" 0 ut in "vnl1.tranw"
.out plot element "diode:d1" 0 it in "inl1.tranw"
.out plot element "diode:d1" 0 xt in "xw1.tran"

*.out plot term 1 vf invfft 3 repeat in "vnl.hb"
*.out plot element "diode:d2" 0 if invfft 3 repeat in "inl.hb"

.end


